US04195174
Preparation of 3,4,6-tri-O-acetyl-2-azido-2-deoxy-α-D-galactopyranosyl chloride (XXII)
An about 1:2 mixture of the α- and β- anomers of 3,4,6-tri-O-acetyl-2-azido-2-deoxy-D-galactopyranosyl nitrate (0.377 g, 1.01 mmole) was dissolved in acetonitrile (6 ml) containing tetraethylammonium chloride (0.924 g, 5.05 mmole) and the solution was left at room temperature for 48 hours. The reaction mixture was diluted with dichloromethane (25 ml), washed with water (25 ml) and dried. Evaporation of the solvent in vacuo left a syrup (0.325 g) which showed doublets with spacings of 9.0 and 3.5 Hz at δ 5.15 and 6.20 p.p.m., respectively in the p.m.r. spectrum measured in CDCl3. These signals are assigned to the β- (XXIII) and α-anomers (XXII) for 3,4,6-tri-O-acetyl-2-azido-2-deoxy-D-galactopyranosyl chloride, respectively. Judging from the relative intensities of the signals, the product consisted of a near 10:1 mixture of the α- and β-anomers, (XXII) and (XXIII) respectively.

reactant | 3,4,6-tri-O-acetyl-2-azido-2-deoxy-D-galactopyranosyl nitrate | 1.01 mmole, 0.377 g | [N+](=O)(OC1[C@@H]([C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O1)COC(C)=O)N=[N+]=[N-])[O-] | C12H16N4O10
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
catalyst | tetraethylammonium chloride | 5.05 mmole, 0.924 g | [Cl-].C(C)[N+](CC)(CC)CC
product | 3,4,6-tri-O-acetyl-2-azido-2-deoxy-α-D-galactopyranosyl chloride | C(C)(=O)O[C@@H]1[C@H]([C@H](O[C@@H]([C@@H]1OC(C)=O)COC(C)=O)Cl)N=[N+]=[N-] | C12H16ClN3O7
